US04537924
1,3-Bis[N-n-propyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate
Under agitation, 363.0 g (1.83 moles) of 4-n-propylamino-2,2,6,6-tetramethylpiperidine, 10.8 g (0.095 mole) of quadratic acid, and 150 cc of ethylhexanol were heated in a 1-liter agitated flask with attached water trap for five hours under reflux to boiling; the sump temperature was 205° C., and 3.0 cc of water was removed from the cycle. After concentration of the reaction solution, 33.9 g of crystals was precipitated. Yield: 75.2%, mp 198°-199° C. (from cyclohexane). Extinction (g/l.cm) at 278 nm: 27; at 335 nm: 95.

reactant | 4-n-propylamino-2,2,6,6-tetramethylpiperidine | 1.83 moles, 363.0 g | C(CC)NC1CC(NC(C1)(C)C)(C)C | C12H26N2
reactant | quadratic acid | 0.095 mole, 10.8 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
solvent | ethylhexanol | 150 cc | C(C)C(CCCCC)O | C8H18O
product | 1,3-Bis[N-n-propyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate | Yield: 75.2% | C(CC)N(C1CC(NC(C1)(C)C)(C)C)[C+]1[C+](C(=C1[O-])N(CCC)C1CC(NC(C1)(C)C)(C)C)[O-] | InChI=1S/C28H51N4O2/c1-11-13-31(19-15-25(3,4)29-26(5,6)16-19)21-23(33)22(24(21)34)32(14-12-2)20-17-27(7,8)30-28(9,10)18-20/h19-20,29-30,33H,11-18H2,1-10H3/q+1/p-1
